US05157046
A mixture of 6.2 parts of 4-[1-(1H-imidazol-1-yl)-2-methylpropyl]-1,2-benzenediamine, 6.5 parts of ethyl ethanimidate hydrochloride and 80 parts of ethanol was stirred for 3 hours at reflux temperature. After evaporation to dry, the residue was taken up in water and sodium carbonate. The product was extracted three times with 120 parts of trichloromethane. The combined extracts were dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in a mixture of 2-propanone and ethanol. The salt was filtered off and crystallized from a mixture of ethanol and 2-propanone. The product was filtered off and dried, yielding 4 parts (44%) of 5-[1-(1H-imidazol-1yl)-2-methylpropyl]-2-methyl-1H-benzimidazole dihydrochloride.monohydrate; mp. 214.8° C. (comp. 22).

reactant | 4-[1-(1H-imidazol-1-yl)-2-methylpropyl]-1,2-benzenediamine | N1(C=NC=C1)C(C(C)C)C=1C=C(C(=CC1)N)N | C13H18N4
reactant | ethyl ethanimidate hydrochloride | Cl.C(C)(OCC)=N
solvent | ethanol | C(C)O | C2H6O
product | 5-[1-(1H-imidazol-1yl)-2-methylpropyl]-2-methyl-1H-benzimidazole dihydrochloride | 44% | Cl.Cl.N1(C=NC=C1)C(C(C)C)C1=CC2=C(NC(=N2)C)C=C1 | InChI=1S/C15H18N4.2ClH/c1-10(2)15(19-7-6-16-9-19)12-4-5-13-14(8-12)18-11(3)17-13;;/h4-10,15H,1-3H3,(H,17,18);2*1H
